US05541210
A mixture of 2,3-diamino-6-nitrotoluene (11.81 g), formic acid (88%, 390 mL) and 12N HCl (38 mL) is heated to reflux for 1 hour. The resulting mixture is cooled to room temperature and rotary evaporated. The residue is diluted with water (200 mL), then basified with ammonium hydroxide (28-30%). The suspension is extracted with ethyl acetate (3×200 mL). The combined extracts are dried over magnesium sulfate (MgSO4) and evaporated to afford 4-methyl-5-nitrobenzimidazole as an orange solid.

reactant | 2,3-diamino-6-nitrotoluene | 11.81 g | NC1=C(C(=CC=C1N)[N+](=O)[O-])C | C7H9N3O2
reactant | formic acid | 390 mL | C(=O)O | CH2O2
reactant | HCl | 12N, 38 mL | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 200 mL | O | H2O
product | 4-methyl-5-nitrobenzimidazole | CC1=C(C=CC=2N=CNC21)[N+](=O)[O-] | C8H7N3O2
